US04223132
To a solution of benzyl 7β-amino-3-methyl-3-cephem-4-carboxylate (1.2 g) and anisole (5.2 ml) in methylene chloride (100 ml) is dropwise added a solution of aluminum chloride (3.11 g) in nitromethane (40 ml) under ice cooling, and the mixture stirred for 4.5 hours at room temperature, mixed with water (40 ml), and adjusted to pH 0.3 with 1 N-hydrochloric acid. The aqueous layer is separated, washed with ethyl acetate (30 ml), adjusted to pH 2.4 with an aqueous solution of sodium hydroxide and allowed to stand overnight at 0° C. The resulting crystals are collected by filtration to give 7β-amino-3-methyl-3-cephem-4-carboxylic acid (757 mg). Yield: 89.6%. This product was identical with an authentic specimen in NMR and IR spectra.

reactant | benzyl 7β-amino-3-methyl-3-cephem-4-carboxylate | 1.2 g | N[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OCC2=CC=CC=C2)C1=O | C15H16N2O3S
reactant | anisole | 5.2 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | aluminum chloride | 3.11 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | nitromethane | 40 ml | [N+](=O)([O-])C | CH3NO2
solvent | water | 40 ml | O | H2O
product | 7β-amino-3-methyl-3-cephem-4-carboxylic acid | 757 mg, Yield: 89.6% | N[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
